US07425634B2
(3a) Ethyl(2-propyl-1,3-dioxolan-2-yl)acetate
A mixture of ethyl 3-oxohexanoate (5 g, 31.6 mmol), ethylene glycol (3.92 g, 63.2 mmol) and triethyl orthoformate (4.68 g, 31.6 mmol), and p-toluenesulfonic acid monohydrate (544 mg, 2.86 mmol) was stirred at room temperature for 29 hours and 10 minutes. To the reaction mixture, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over magnesium sulfate, and filtered. The filtrate was concentrated under reduced press-re to obtain the title compound (6.2 g, 97%) as a colorless oil.

reactant | ethyl 3-oxohexanoate | 31.6 mmol, 5 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | ethylene glycol | 63.2 mmol, 3.92 g | C(CO)O | C2H6O2
reactant | triethyl orthoformate | 31.6 mmol, 4.68 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | p-toluenesulfonic acid monohydrate | 2.86 mmol, 544 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | Ethyl(2-propyl-1,3-dioxolan-2-yl)acetate | 6.2 g, 97% | C(C)OC(CC1(OCCO1)CCC)=O | C10H18O4
